US08026257B2
(1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate.
To a solution of tert-butyl 4-((2,3-diamino-5-chlorobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (714 mg, 1.5 mmol) in tetrahydrofuran (10 mL) at 0° C. was added carbonyldiimidazole (242 mg, 1.5 mmol). The ice bath was removed and stirring continued for 1 h. The reaction was treated with a second portion of carbonyldiimidazole (242 mg, 1.5 mmol) and stirred for 1 h at room temperature. The solution was transferred to a microwave vial and heated at 70° C. for 1 h via microwave. The reaction was poured into diethyl ether, washed with water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%→100 ethyl acetate/n-hexane) gave 0.52 g (69%) as a brown solid. 1H-NMR (CDCl3, 500 MHz) δ 9.69 (bs, 1H), 9.05 (bs, 1H), 7.42 (d, J=1.8 Hz, 1H), 7.38 (dd, J=8.6, 5.2 Hz, 2H), 7.19 (d, J=1.5 Hz, 1H), 7.11 (dd, J=8.6, 8.5 Hz, 2H), 4.32 (s, 2H), 3.81 (m, 2H), 3.09 (m, 2H), 2.24 (m, 2H), 1.89 (m, 2H), 1.44 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 164.6, 162.6, 160.6, 157.4, 155.1, 136.5, 131.1, 128.8 (d, J=7.7 Hz), 126.0, 121.1, 115.7 (d, J=21 Hz), 114.7, 111.8, 79.8, 73.1, 40.6, 39.9, 31.8, 28.6. Mass spec.: 525.87 (MNa)+.

reactant | tert-butyl 4-((2,3-diamino-5-chlorobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 1.5 mmol, 714 mg | NC1=C(C(=O)OCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)F)C=C(C=C1N)Cl | C24H29ClFN3O4
reactant | carbonyldiimidazole | 1.5 mmol, 242 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbonyldiimidazole | 1.5 mmol, 242 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | ClC=1C=C(C2=C(NC(N2)=O)C1)C(=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C25H27ClFN3O5
